US04390702
Ethyl 3-phenylpyruvate (10 g; 0.052 mol) is dissolved in a mixture of acetonitrile (60 g) and trichlorotrifluoroethane (410 g), and the resulting solution is cooled to -10° C. Then, fluorine gas (0.067 mol) diluted with nitrogen to 10% concentration is introduced therein over a period of 2.5 hours while stirring vigorously. After addition of sodium fluoride (2 g), the solvent is distilled off under reduced pressure, and the residue is rectified to give ethyl 3-phenyl-3-fluoropyruvate (4.37 g). Boiling point, 90°-95° C./1 mmHg.

reactant | Ethyl 3-phenylpyruvate | 0.052 mol, 10 g | C1(=CC=CC=C1)CC(C(=O)OCC)=O | C11H12O3
reactant | fluorine | 0.067 mol | FF | F2
reactant | sodium fluoride | 2 g | [F-].[Na+]
solvent | acetonitrile | 60 g | C(C)#N | C2H3N
solvent | trichlorotrifluoroethane | 410 g | ClC(C(F)(F)F)(Cl)Cl | C2Cl3F3
product | ethyl 3-phenyl-3-fluoropyruvate | 4.37 g | C1(=CC=CC=C1)C(C(C(=O)OCC)=O)F | C11H11FO3
